US06756378B2
To a stirred mixture of (2S,4R)-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethy-4-hydroxypyrrolidine (21.7 g, 47.6 mmol), acetic acid (3.0 ml, 52.4 mmol) and PPh3 (12.5 g, 52.4 mmol) in THF (330 ml) was added DIAD (9.4 ml, 47.6 mmol) at room temperature under an atmosphere of nitrogen. After 2 h stirring the same temperature, the mixture was heated at 50° C. for 2 h. After cooling to room temperature, the reaction mixture was concentrated in vacuo. The resulting residue was chromatographed on silica gel [1 Kg, n-hexane/EtOAc(5/1)], to give (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethypyrrolidine (23.3 g, 99%) as a colorless oil. 1H-NMR (CDCl3) δ1.06 (s, 9H), 1.35 and 1.43 (s, 9H, amide isomers), 1.92 (br, 3H), 2.20-2.45 (m, 2H), 3.31-4.07 (m, 5H), 5.17-5.30 (m, 1H), 7.36-7.44 (m, 6H), 7.65-7.71 (m, 4H).

reactant | (2S,4R)-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethy-4-hydroxypyrrolidine | 47.6 mmol, 21.7 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO4Si
reactant | acetic acid | 52.4 mmol, 3.0 ml | C(C)(=O)O | C2H4O2
reactant | PPh3 | 52.4 mmol, 12.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 47.6 mmol, 9.4 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 330 ml | C1CCOC1 | C4H8O
product | (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethypyrrolidine | 23.3 g, 99% | C(C)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H39NO5Si
